US06586617B1
Synthesis of 2′-Amino-4′-chloro-N-methyl-p-toluenesulfonanilide (Compound No. 61)
A mixture of 4′-chloro-N-methyl-2′-nitro-p-toluenesulfonanilide (7.11 g (20.9 mmol)), stannous chloride (14.7 g (62.6 mmol)) and ethanol (100.0 ml) was stirred at room temperature for 45 minutes, and at 50° C. for 16 hours. After being allowed to cool to room temperature, the reaction mixture was neutralized with a saturated aqueous solution of sodium bicarbonate and the insolubles were removed by filtration. The filtrate was extracted with ethyl acetate and the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with acetone-chloroform-hexane (1:3:5) as eluent to give 5.22 g (81%) of the title compound as white crystals.

reactant | 4′-chloro-N-methyl-2′-nitro-p-toluenesulfonanilide | 20.9 mmol, 7.11 g | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)[N+](=O)[O-] | C14H13ClN2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 100.0 ml | C(C)O | C2H6O
product | 2′-Amino-4′-chloro-N-methyl-p-toluenesulfonanilide | 5.22 g, 81% | NC1=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=CC(=C1)Cl | C14H15ClN2O2S
